US06762205B1
The procedure of Example 88 was repeated, except that 120 mg of 4′-hydroxy-4-nitro-2-biphenylcarbonitrile was used in place of N-(4′-hydroxybiphenyl-4-yl)methanesulfonamide, and 0.430 ml of N,N-dimethylsulfamoyl chloride was used in place of sulfamoyl chloride. The resulting crude product was purified by TLC (using a 16:1 mixture of chloroform and acetone as the developing solvent) to obtain 97 mg of 2′-cyano-4′-nitrobiphenyl-4-yl N,N-dimethylsulfamate.

reactant | 4′-hydroxy-4-nitro-2-biphenylcarbonitrile | 120 mg | OC1=CC=C(C=C1)C=1C(=CC(=CC1)[N+](=O)[O-])C#N | C13H8N2O3
reactant | N,N-dimethylsulfamoyl chloride | 0.430 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
product | 2′-cyano-4′-nitrobiphenyl-4-yl N,N-dimethylsulfamate | 97 mg | CN(S(OC1=CC=C(C=C1)C1=C(C=C(C=C1)[N+](=O)[O-])C#N)(=O)=O)C | C15H13N3O5S
